*
.SUBCKT PIMZ2 1 2 3 4 5 6
*
Q1 3 5 4 TR1
D1 3 5 DIODE1
Q2 1 6 2 TR2
D2 6 1 DIODE2
*
* The diode does not reflect a 
* physical device but improves 
* only modeling in the reverse 
* mode of operation of the PNP
* transistor.
*
.MODEL TR1 PNP 
+ IS = 9.134E-15
+ NF = 0.9775
+ ISE = 5.035E-16
+ NE = 1.4
+ BF = 267.4
+ IKF = 0.095
+ VAF = 38
+ NR = 0.9848
+ ISC = 1.713E-15
+ NC = 1.034
+ BR = 17
+ IKR = 0.0075
+ VAR = 11.5
+ RB = 75
+ IRB = 0.0002144
+ RBM = 0.108
+ RE = 0.4
+ RC = 0.95
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.126E-11
+ VJE = 0.7922
+ MJE = 0.3954
+ TF = 4.5E-10
+ XTF = 1.5
+ VTF = 20
+ ITF = 0.07
+ PTF = 0
+ CJC = 1.031E-11
+ VJC = 1
+ MJC = 0.6227
+ XCJC = 1
+ TR = 5.1E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE1 D
+ IS = 4.065E-18
+ N = 0.9309
+ BV = 1000
+ IBV = 0.001
+ RS = 0.02115
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ XTI = 2
+ EG = 1.11
+ XTI = 2
.MODEL TR2 NPN
+ IS = 1.217E-14
+ NF = 0.9803
+ ISE = 1.129E-15
+ NE = 1.342
+ BF = 300
+ IKF = 0.16
+ VAF = 130
+ NR = 0.9758
+ ISC = 8.952E-15
+ NC = 1.2
+ BR = 6.2
+ IKR = 0.075
+ VAR = 20
+ RB = 10
+ IRB = 8E-05
+ RBM = 1
+ RE = 0.5
+ RC = 0.75
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.362E-11
+ VJE = 0.7287
+ MJE = 0.36
+ TF = 3.8E-10
+ XTF = 1.5
+ VTF = 15
+ ITF = 0.085
+ PTF = 0
+ CJC = 5.522E-12
+ VJC = 0.4075
+ MJC = 0.3704
+ XCJC = 1
+ TR = 1E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE2 D
+ IS = 4E-17
+ N = 1
+ BV = 1000
+ IBV = 0.001
+ RS = 0.1
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ XTI = 2
+ EG = 1.11
+ XTI = 2
.ENDS
*
