*
.SUBCKT PMBT6429 1 2 3
* 
* housing parasitics
LB 2 22 1.25E-09
LE 3 33 1.12E-09 
LC 1 11 2.3E-10 
CBCG 22 11 6.2E-14 
CBEG 22 33 4.5E-14 
CCEG 11 33 6.2E-14
*
* The diode does not reflect a 
* physical device but improves 
* only modeling in the reverse
* mode of operation.
*
Q1 11 22 33 PMBT6429 
D1 22 11 DIODE
*
.MODEL PMBT6429 NPN 
+ IS = 3.591E-14 
+ NF = 0.997 
+ ISE = 1.17E-14 
+ NE = 1.95 
+ BF = 600 
+ IKF = 0.08 
+ VAF = 77 
+ NR = 0.9927 
+ ISC = 2.885E-18 
+ NC = 0.8 
+ BR = 20 
+ IKR = 4E+05 
+ VAR = 27 
+ RB = 478 
+ IRB = 2.5E-05 
+ RBM = 1 
+ RE = 0.35 
+ RC = 0.8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.116E-11 
+ VJE = 0.6 
+ MJE = 0.3536 
+ TF = 3.8E-10 
+ XTF = 6 
+ VTF = 6.4 
+ ITF = 0.16 
+ PTF = 0 
+ CJC = 3.552E-12 
+ VJC = 0.3992 
+ MJC = 0.3822 
+ XCJC = 1 
+ TR = 2.5E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.MODEL DIODE D 
+ IS = 1E-16 
+ N = 1 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1.02 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ XTI = 2 
+ EG = 1.11 
+ XTI = 2 
.ENDS


