*
.SUBCKT PMBTA06 1 2 3 
* housing parasitics
LB 2 22 1.25E-09 
LE 3 33 1.12E-09 
LC 1 11 2.3E-10 
CBCG 22 11 6.2E-14 
CBEG 22 33 4.5E-14 
CCEG 11 33 6.2E-14 
Q1 11 22 33 QPMBTA06 
D1 22 11 DIODE 
*
* The diode does not reflect a physical
* device but improves only modeling
* in the reverse mode of operation
*
.MODEL QPMBTA06 NPN 
+ IS = 5.083E-14 
+ NF = 0.9903 
+ ISE = 3.284E-16 
+ NE = 1.2 
+ BF = 188 
+ IKF = 1.5 
+ VAF = 170 
+ NR = 0.9817 
+ ISC = 3.78E-15 
+ NC = 1.1 
+ BR = 16.51 
+ IKR = 0.12 
+ VAR = 33 
+ RB = 25 
+ IRB = 1E-05 
+ RBM = 0.2 
+ RE = 0.203 
+ RC = 0.25 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 6.661E-11 
+ VJE = 0.6716 
+ MJE = 0.3424 
+ TF = 6.5E-10 
+ XTF = 8 
+ VTF = 2 
+ ITF = 0.7 
+ PTF = 0 
+ CJC = 1.576E-11 
+ VJC = 0.5623 
+ MJC = 0.4561 
+ XCJC = 1 
+ TR = 2.5E-07 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.68 
.MODEL DIODE D 
+ IS = 7.58E-15 
+ N = 0.9585 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 400 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
