*
.SUBCKT PMBTA92 1 2 3 
* housing parasitics
LB 2 22 1.25E-09 
LE 3 33 1.12E-09 
LC 1 11 1E-10 
CBCG 22 11 6.2E-14 
CBEG 22 33 4.5E-14 
CCEG 11 33 6.2E-14 
*
Q1 11 22 33 QPMBTA92 
*
.MODEL QPMBTA92 PNP( 
+    IS = 1.737E-14 
+    NF = 0.9934 
+    ISE = 8.208E-15 
+    NE = 1.559 
+    BF = 141.4 
+    IKF = 0.8 
+    VAF = 350 
+    NR = 0.9755 
+    ISC = 2.097E-10 
+    NC = 1.65 
+    BR = 2.5 
+    IKR = 0.06 
+    VAR = 17 
+    RB = 70 
+    IRB = 5E-05 
+    RBM = 0.3 
+    RE = 0.418 
+    RC = 2.5 
+    XTB = 0 
+    EG = 1.11 
+    XTI = 3 
+    CJE = 3.916E-11 
+    VJE = 0.7361 
+    MJE = 0.3612 
+    TF = 1.356E-09 
+    XTF = 19 
+    VTF = 9 
+    ITF = 0.2 
+    PTF = 0 
+    CJC = 1.071E-11 
+    VJC = 0.726 
+    MJC = 0.5717 
+    XCJC = 0.413 
+    TR = 3.3E-07 
+    CJS = 0 
+    VJS = 0.75 
+    MJS = 0.333 
+    FC = 0.999) 
.ENDS
*
