*
.SUBCKT PMSTA42 1 2 3
*
Q1 1 2 3 PMSTA42
+ AREA = 1
D1 2 1 DIODE
*
* The diode does not reflect a
* physical device but improves
* only modeling in the reverse 
* mode of operation.
*
.MODEL PMSTA42 NPN
+ IS = 1.969E-14
+ NF = 0.9875
+ ISE = 4.744E-16
+ NE = 1.099
+ BF = 300
+ IKF = 0.0064
+ VAF = 30.4
+ NR = 1
+ ISC = 1E-14
+ NC = 1.5
+ BR = 3.8
+ IKR = 0.055
+ VAR = 65.4
+ RB = 245
+ IRB = 2E-05
+ RBM = 3
+ RE = 0.1
+ RC = 0.7
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.912E-11
+ VJE = 0.6495
+ MJE = 0.3282
+ TF = 1E-09
+ XTF = 10
+ VTF = 25
+ ITF = 0.15
+ PTF = 0
+ CJC = 4.5E-12
+ VJC = 0.3487
+ MJC = 0.3289
+ XCJC = 1
+ TR = 8E-07
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.MODEL DIODE D
+ IS = 1.1E-13
+ N = 1
+ BV = 1000
+ IBV = 2E-08
+ RS = 1500
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 2
.ENDS
*
